US08247429B2
methyl 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2,3-dimethyl-2H-indazole-4-carboxylate
A suspension of methyl 5-bromo-2,3-dimethyl-2H-indazole-4-carboxylate (1.10 g, 3.89 mmol), palladium acetate (87.3 mg, 0.389 mmol), triphenylphosphine (204 mg, 0.778 mmol), potassium carbonate (591 mg, 4.28 mmol) and methyl acrylate (523 μL, 5.83 mmol) in N,N-dimethylformamide (39 mL) was stirred with heating at 100° C. for 4 hr. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→60/40) to give the title compound (606 mg, yield 54%).

reactant | methyl 5-bromo-2,3-dimethyl-2H-indazole-4-carboxylate | 3.89 mmol, 1.10 g | BrC1=C(C2=C(N(N=C2C=C1)C)C)C(=O)OC | C11H11BrN2O2
reactant | triphenylphosphine | 0.778 mmol, 204 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 4.28 mmol, 591 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 5.83 mmol, 523 μL | C(C=C)(=O)OC | C4H6O2
solvent | N,N-dimethylformamide | 39 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.389 mmol, 87.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2,3-dimethyl-2H-indazole-4-carboxylate | 606 mg, yield 54% | COC(/C=C/C1=C(C2=C(N(N=C2C=C1)C)C)C(=O)OC)=O | C15H16N2O4
